US08048884B2
N-{2-[3′-(4-Hydroxymethyl-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-yl]-ethyl}-N-methyl-benzenesulfonamide hydrochloride
Combine N-[2-(3′-chloro-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-yl)-ethyl]-N-methyl-benzenesulfonamide (0.300 g, 0.758 mmol), potassium carbonate (0.251 g, 1.82 mmol), (4-(hydroxymethyl)phenyl boronic acid (0.138 g, 0.909 mmol), and tetrakis(triphenylphosphine)palladium(0) (0.009 g, 0.008 mmol) in N,N-dimethylacetamide (1.5 mL). Add water (760 μL), and reflux reaction for 6 hr. Continue to heat at 70° C. for 18 hr. Add (4-(hydroxymethyl)phenyl boronic acid (0.069 g, 0.56 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.009 g, 0.008 mmol) and heat to 115° C. for 6 hr. Continue to stir at ambient temperature over 72 hr. Add dichloromethane and wash with water. Extract the aqueous layer three times with dichloromethane. Dry the combined organic layers and purify (silica gel chromatography, eluting with 0:100 to 100:0 ethyl acetate:hexanes), to give the free base of the title compound (278 mg, 78%).

reactant | N-[2-(3′-chloro-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-yl)-ethyl]-N-methyl-benzenesulfonamide | 0.758 mmol, 0.300 g | ClC=1C(=NC=CN1)N1CCN(CC1)CCN(S(=O)(=O)C1=CC=CC=C1)C | C17H22ClN5O2S
reactant | potassium carbonate | 1.82 mmol, 0.251 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(hydroxymethyl)phenyl boronic acid | 0.909 mmol, 0.138 g | OCC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | water | 760 μL | O | H2O
reactant | 4-(hydroxymethyl)phenyl boronic acid | 0.56 mmol, 0.069 g | OCC1=CC=C(C=C1)B(O)O | C7H9BO3
solvent | N,N-dimethylacetamide | 1.5 mL | CN(C(C)=O)C | C4H9NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.008 mmol, 0.009 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.008 mmol, 0.009 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-{2-[3′-(4-Hydroxymethyl-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-yl]-ethyl}-N-methyl-benzenesulfonamide hydrochloride | 278 mg, 78% | Cl.OCC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCN(CC1)CCN(S(=O)(=O)C1=CC=CC=C1)C | InChI=1S/C24H29N5O3S.ClH/c1-27(33(31,32)22-5-3-2-4-6-22)13-14-28-15-17-29(18-16-28)24-23(25-11-12-26-24)21-9-7-20(19-30)8-10-21;/h2-12,30H,13-19H2,1H3;1H
